US06809097B1
A mixture of 4-chloro-6,7-dimethoxyquinoline hydrochloride (360 mg, 1.4 mmol), (prepared as described for the starting material in Example 2), and 2-fluoro-5-hydroxy-4-methylaniline (212 mg 1.5 mmol), (prepared as described for the starting material in Example 1), in isopropanol (15 ml) was heated at reflux for 3 hours. The mixture was allowed to cool and the solid product was collected by filtration, washed with acetone and dried to give 6,7-dimethoxy-4-(2-fluoro-5-hydroxy-4-methylanilino)quinoline hydrochloride (146 mg, 29%).

reactant | 4-chloro-6,7-dimethoxyquinoline hydrochloride | 1.4 mmol, 360 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OC
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.5 mmol, 212 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 6,7-dimethoxy-4-(2-fluoro-5-hydroxy-4-methylanilino)quinoline hydrochloride | 146 mg, 29% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C18H17FN2O3.ClH/c1-10-6-12(19)15(8-16(10)22)21-13-4-5-20-14-9-18(24-3)17(23-2)7-11(13)14;/h4-9,22H,1-3H3,(H,20,21);1H
